US07462634B2
vi. Preparation of N-(6-Amino-4-methylpyridin-2-yl)-2-(4-cyanophenyl)4-methyl-1,3-thiazole-5-sulfonamide
To a solution of tert-butyl [6-({[2-(4-cyanophenyl)4-methyl-1,3-thiazol-5-yl]sulfonyl}amino)-4-methylpyridin-2-yl]carbamate (0.334 g, 0.68 mmol, 1 equiv) in dichloromethane (3 mL) was added trifluoroacetic acid (0.21 mL, 4 equiv). The reaction mixture was stirred at 24° C. for 48 h. The solution was neutralized with saturated aqueous sodium bicarbonate, and the resulting solution was extracted with dichloromethane (3×20 mL). The collected organic was dried over anhydrous sodium sulfate, filtered, and concentrated. Purification by high performance flash chromatography (0→1% methanol in dichloromethane) provided the titled product N-(6-Amino-4-methylpyridin-2-yl)-2-(4-cyanophenyl)-4-methyl-1,3-thiazole-5-sulfonamide (0.22 g, 81%). 1H NMR (400 MHz, DMSO-d6), δ: 12.08 (br s, 1H), 8.09 (d, J=8.3 Hz, 2H), 7.95 (d, J=8.3 Hz, 2H), 6.62 (br s, 2H), 6.12 (s, 1H), 5.79 (s, 1H), 2.59 (s, 3H), 2.08 (s, 3H); HRMS (ESI): Calculated for C17H16N5O2S2 m/z 386.0740. Found: 386.0745;. Anal. Calcd for C17H15N5O2S2: C, 52.97; H, 3.92; N, 18.17; Found: C, 52.75; H, 3.76; N, 18.03.

reactant | tert-butyl [6-({[2-(4-cyanophenyl)4-methyl-1,3-thiazol-5-yl]sulfonyl}amino)-4-methylpyridin-2-yl]carbamate | 0.68 mmol, 0.334 g, 1 equiv | C(#N)C1=CC=C(C=C1)C=1SC(=C(N1)C)S(=O)(=O)NC1=CC(=CC(=N1)NC(OC(C)(C)C)=O)C | C22H23N5O4S2
reactant | trifluoroacetic acid | 0.21 mL, 4 equiv | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | N-(6-Amino-4-methylpyridin-2-yl)-2-(4-cyanophenyl)-4-methyl-1,3-thiazole-5-sulfonamide | 0.22 g, 81% | NC1=CC(=CC(=N1)NS(=O)(=O)C1=C(N=C(S1)C1=CC=C(C=C1)C#N)C)C | C17H15N5O2S2
